US06150352
Step 3.3B 2-{2-[7-chloro-6-[3-(2,2-dimethoxyethyl)-3-pyrazin-2-yl-ureido]-3-(3,5 -dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanylethyl ester
To a solution of (2,2-dimethoxyethyl)-pyrazin-2-yl-amine (103 mg in 3 mL dry tetrahydrofuran) at -78° C. was added 0.23 mL of a 2.5M solution of butyllithium and the mixture stirred for 30 minutes. At this time, a solution of 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-isocyanato-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanylethyl ester (94 mg in 2 mL tetrahydrofuran) was added via cannula and the mixture warmed to room temperature. After 20 hours, the reaction was quenched by the addition of saturated ammonium chloride and extracted with chloroform. The organic portion was washed with brine, dried over sodium sulfate and concentrated in vacuo. Purification of the residue by preparative tlc on silica gel (ethyl acetate) gave the title compound (11 mg).

reactant | (2,2-dimethoxyethyl)-pyrazin-2-yl-amine | 3 mL, 103 mg | COC(CNC1=NC=CN=C1)OC | C8H13N3O2
reactant | butyllithium | C(CCC)[Li]
reactant | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-isocyanato-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanylethyl ester | 2 mL, 94 mg | C[Si](CCOC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N=C=O)Cl)=O)C1=CC(=CC(=C1)C)C)(C)C | C31H38ClN3O5Si
product | 2-{2-[7-chloro-6-[3-(2,2-dimethoxyethyl)-3-pyrazin-2-yl-ureido]-3-(3,5 -dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanylethyl ester | 11 mg | C[Si](CCOC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)NC(=O)N(C1=NC=CN=C1)CC(OC)OC)Cl)=O)C1=CC(=CC(=C1)C)C)(C)C | C39H51ClN6O7Si
